US05840749
To a stirring solution of 4.77 g of N-methylhydroxylamine hydrochloride in 100 ml of absolute ethanol was added 6.38 g of potassium tert-butoxide. To the resulting suspension was added 6.98 g of 4-(4,10-dihydro-10-oxothieno[3,2-c][1]benzoxepin-8-yl)butanol methanesulfonate, and an additional 150 ml of absolute ethanol. The suspension was allowed to reflux for 24 hours and was then cooled to room temperature. The suspension was filtered to remove potassium chloride and the filter cake was washed with absolute ethanol. The resulting solution was concentrated in vacuo to a waxy solid. The solid was dissolved in 300 ml of methylene chloride and partitioned against 200 ml of water. The organic phase was dried with 200 ml of saturated aqueous sodium chloride, collected, dried again (Na2SO4), filtered, and concentrated in vacuo to an oil. The oil solidified upon standing, and was recrystallized from isopropanol to give 3.09 g of 4-(4,10-dihydro-10 -oxothieno[3,2-c][1]benzoxepin-8-yl)-N-hydroxy-N-methyl-1-butylamine, m.p. 107°-108° C.

reactant | N-methylhydroxylamine hydrochloride | 4.77 g | Cl.CNO
reactant | potassium tert-butoxide | 6.38 g | CC(C)([O-])C.[K+]
reactant | 4-(4,10-dihydro-10-oxothieno[3,2-c][1]benzoxepin-8-yl)butanol methanesulfonate | 6.98 g | CS(=O)(=O)OCCCCC=1C=CC2=C(C(C3=C(CO2)C=CS3)=O)C1 | C17H18O5S2
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 4-(4,10-dihydro-10 -oxothieno[3,2-c][1]benzoxepin-8-yl)-N-hydroxy-N-methyl-1-butylamine | 3.09 g | O=C1C2=C(COC3=C1C=C(C=C3)CCCCN(C)O)C=CS2 | C17H19NO3S
